US07838543B2
Step 2. 2-(3-Dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-ylamine
Suspend 2-chloro-6-nitrobenzthiazole (8.49 g, 39.6 mmol) in THF (100 mL). Slowly add (3R)-(+)-3-(dimethylamino)pyrrolidine (5.24 g, 45.9 mmol). Stir the reaction overnight at room temperature. Dilute the reaction with ethyl acetate and then wash with water and brine. Concentrate the organic portion in vacuo, and triturate the resulting residue with MeOH to afford the title compound (4.94 g, 43%). 1H NMR (400 MHz, DMSO-d6): δ 8.81 (d, 1H, J=2.2 Hz), 8.14 (dd, 1H, J=9.0, 2.4 Hz), 7.52 (d, 1H, J=8.8 Hz), 4.00-3.43 (m, 3H), 3.30 (m, 1H), 2.91 (m, 1H), 2.20-2.15 (m, 7H), 1.93 (m, 1H).

reactant | 2-chloro-6-nitrobenzthiazole | 39.6 mmol, 8.49 g | ClC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H3ClN2O2S
reactant | (3R)-(+)-3-(dimethylamino)pyrrolidine | 45.9 mmol, 5.24 g | CN([C@H]1CNCC1)C | C6H14N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-(3-Dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-ylamine | 4.94 g, 43% | CN(C1CN(CC1)C=1SC2=C(N1)C=CC(=C2)N)C | C13H18N4S
